US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline (300 mg) in dichloromethane (5 ml) were dropwise added triethylamine (294 mg) and phenyl chloroformate (375 mg) under ice-cooling, and the mixture was stirred for 2.5 hours at ambient temperature. To the mixture was further added phenyl chloroformate (250 mg), and the mixture was stirred for 1.5 hours at ambient temperature. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane, and phenyl chloroformate (375 mg) and diisopropylethylamine (0.506 ml) were added thereto. The mixture was evaporated in vacuo, and the residue was purified by flash chromatography on silica gel (ethyl acetate-n-hexane) to give 8-[N-(2,6-dichlorobenzoyl)-N-phenoxycarbonylamino]-4-[2-(phenoxycarbonyl)imidazol-1-yl]-3-(phenoxycarbonyloxymethyl)quinoline (250 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-hydroxymethyl-4-(imidazol-1-yl)quinoline | 300 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CO)N2C=NC=C2)C(=CC=C1)Cl | C20H14Cl2N4O2
reactant | triethylamine | 294 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 375 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | phenyl chloroformate | 250 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 8-[N-(2,6-dichlorobenzoyl)-N-phenoxycarbonylamino]-4-[2-(phenoxycarbonyl)imidazol-1-yl]-3-(phenoxycarbonyloxymethyl)quinoline | 250 mg | ClC1=C(C(=O)N(C(=O)OC2=CC=CC=C2)C=2C=CC=C3C(=C(C=NC23)COC(=O)OC2=CC=CC=C2)N2C(=NC=C2)C(=O)OC2=CC=CC=C2)C(=CC=C1)Cl | C41H26Cl2N4O8
